US03933906
The mixture of 1.8 g of 4-(4-acetamidophenylamino-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid and 18 ml of 2 N aqueous sodium hydroxide is refluxed for 6 hours under nitrogen. After cooling to room temperature it is acidified with glacial acetic acid to a pH of 4-5, the precipitate collected and recrystallized from 6 ml of 50% aqueous ethanol, to yield the 4-(4-aminophenylamino)-3-furfurylamino-5-(2-aminophenylsulfamoyl)-benzoic acid melting at 182° with decomposition.

reactant | 4-acetamidophenylamino-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | C(C)(=O)NC1=C(C(=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)NC1=CC=CC=C1)NCC1=CC=CO1 | C28H27N5O7S
reactant | sodium hydroxide | 2 N, 18 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-aminophenylamino)-3-furfurylamino-5-(2-aminophenylsulfamoyl)-benzoic acid | NC1=CC=C(C=C1)NC1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)N)(=O)=O)NCC1=CC=CO1 | C24H23N5O5S
